reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([N+:2](=[C:3]([H:10])[H:11])[C:4]([O-:5])=[C:6]([H:13])[H:14])([H:7])([H:8])[H:9].[H:12][H:15],93.006363934112
[C:1]([C:2]([C@:3]1([H:13])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[O:7]1)([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]([H:14])[H:19]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],62.30819065000539
[C:1]([C:2](=[C:3]=[C:4]=[C:5]([O:6][H:14])[H:12])[H:11])([H:7])([H:8])[H:9].[H:10][H:13]>>[C:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],44.4903285239049
[N+:1]12([H:7])[C@:2]3([H:8])[C-:3]1[C@@:6]2([H:12])[C@:5]3([N:4]([H:9])[H:10])[H:11]>>[N:1]1([H:7])[C@@:2]2([H:8])[C@:3]3([H:9])[N:4]([H:10])[C@@:5]2([H:11])[C@:6]13[H:12],45.7845587846816
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[N:1](=[C:2]1\[O:3][C@:4]2([H:9])[O:5][C@@:6]1([H:10])[O:7]2)\[H:8],57.5479048127905
[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:13])([H:8])([H:9])[H:10].[C:3]1(=[O:4])[C@@:5]([O:7][H:15])([H:11])[C:6]1([H:12])[H:14],94.35379913948972
[N:1](=[C:2]=[C:7]([N+:4](=[N-:3])[C:6](=[O:5])[H:9])[H:10])[H:8]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],9.237923388894586
[N:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])([H:7])[H:8]>>[H:8][H:10].[N:1](=[C:2]1\[O:3][C@@:4]1([C:5]#[C:6][H:11])[H:9])\[H:7],108.688859422632
[C:1]([C:2](/[N:3]=[C:4](/[O:5][C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]/[C:4]([O:5][C:6]([H:13])([H:14])[H:15])([H:10])[H:12])[H:11])([H:7])([H:8])[H:9],77.7082667036985
[C:1]([C-:2]([O+:3]=[C:4]([C:5]([O:6][H:16])([H:14])[H:15])[H:13])[H:11])([H:7])([H:8])[H:9].[H:10][H:12]>>[C:1]([C:2]([O:3][C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],1.2640791421064108
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1=[C:4]=[C:5]([H:12])[H:13].[H:6][H:11]>>[C:1]([C:2]([C:3]#[C:4][C:5]([H:11])([H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8],54.608550816761294
[C:1]([C@:2]1([H:11])[C@:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:13])/[C:6]1=[N:7]/[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],73.50282672388849
[C:1]1([H:7])([H:9])[C:2]([H:10])([H:11])[C:3]/[C:4]1=[C:5](/[O:6][H:8])[H:12]>>[C:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],38.57751454192069
[O:1]([C:2](/[C:3](=[N:5]\[C:4]([H:11])([H:12])[H:13])[C:6](=[O:7])[H:14])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8],70.88420746624011
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C:3]([H:10])=[C:4]([H:11])[C@@:6]1([H:13])[N:5]2[H:12],64.5474179902419
[O:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1](/[C:2](=[C:3](\[O:4][H:7])[C:5]#[N:6])[H:8])[H:9],65.5065361236655
[N:1]([C-:2]=[O+:3][C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8],54.8357584271466
[C:1]([C@@:2]1([H:10])[O:3][C:4]([H:12])([H:13])[C:5]1=[C:6]([H:11])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],99.48106420553529
[C:1]([O:2][C:3]1=[N:4][N:5]([H:11])[C:6][C:7]1([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],20.168680324231097
[H:13][H:15].[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],68.9977323283995
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C-:6]=[N+:7]=[C:5]([H:16])[H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],106.84964800288601
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:4]/[C:3](=[C:2](/[C:5]#[N:6])[H:10])[H:11])([H:7])([H:8])[H:9],88.95337006191298
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C-:1]([N+:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])([H:8])[H:11])([H:9])[H:10],83.1168417049937
[N:1]([C:2]([C@@:3]([O:4][H:12])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[C:3]([O:4][H:12])([C:5]#[N:6])([H:10])[H:11].[N:1]([C:2][H:9])([H:7])[H:8],72.816581765869
